US06706710B2
To a slurry of (R)-N-[5-methyl-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphtyl]-4-morpholinobenzamide in ethanol (493 g, 1.1 mole, 2.5 L) is added a mixture of imidazole (82 g, 1.2 mole) and HBr in acetic acid (33 w/w %, 124 g, 1.5 mole) in ethanol (2.5 L) at 65° C. After the addition of all the material is dissolved, the solution is filtered clear and then heated at 80° C. for 2 h. The reaction mixture is then cooled to 65° C. and seeding crystals of (R)-N-[5-methyl-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphtyl]-4-morpholinobenzamide monohydrobromide Form A are added. From 65° C. a cooling profile is started with a cooling rate of 7-8° C./h until the temperature is −10° C. The slurry is then stirred for 8 hrs at −10° C. before the crystals are filtered off and washed with cool ethanol. Drying under vacuum (50° C.) gives 533 g (92%) of (R)-N-[5-methyl-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphtyl]-4-morpholinobenzamide monohydrobromide Form A; 1H NMR (300 MHz, DMSO-d6) δ 8.24 (d, J=7.5 Hz, 1 H), 7.86 (d, J=8 Hz, 2 H), 6.92-7.08 (m, 1 H), 7.01 (d, J=7.5 Hz, 1 H), 6.98 (d, J=8 Hz, 1 H), 6.86 (d, J=8 Hz, 1 H), 3.61-4.07 (m, 5 H), 2.42-3.61 (m, 16 H), 2.84 (s, 3 H), 2.00-2.20 (m, 1 H), 2.15 (s, 3 H), 1.63-1.88 (m, 1 H). For further characterization, see below.

reactant | (R)-N-[5-methyl-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphtyl]-4-morpholinobenzamide | CC1=C2CC[C@H](CC2=C(C=C1)N1CCN(CC1)C)NC(C1=CC=C(C=C1)N1CCOCC1)=O | C27H36N4O2
reactant | imidazole | 1.2 mole, 82 g | N1C=NC=C1 | C3H4N2
reactant | HBr | Br | BrH
reactant | acetic acid | 1.5 mole, 124 g | C(C)(=O)O | C2H4O2
solvent | ethanol | 2.5 L | C(C)O | C2H6O
solvent | ethanol | 1.1 mole, 2.5 L, 493 g | C(C)O | C2H6O
product | (R)-N-[5-methyl-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphtyl]-4-morpholinobenzamide monohydrobromide | 533 g, 92% | Br.CC1=C2CC[C@H](CC2=C(C=C1)N1CCN(CC1)C)NC(C1=CC=C(C=C1)N1CCOCC1)=O | InChI=1S/C27H36N4O2.BrH/c1-20-3-10-26(31-13-11-29(2)12-14-31)25-19-22(6-9-24(20)25)28-27(32)21-4-7-23(8-5-21)30-15-17-33-18-16-30;/h3-5,7-8,10,22H,6,9,11-19H2,1-2H3,(H,28,32);1H/t22-;/m1./s1
